US07608627B2
To an ice-cold solution of (1H-imidazol-2-yl)methanol hydrochloride (2.0 g, 15 mmol), N-hydroxyphthalimide (2.4 g, 15 mmol) and triphenylphosphine (4.0 g, 15 mmol) in THF (65 mL) was added a solution of diethyl azodicarboxylate (2.6 mL, 16 mmol) in THF (10 mL) dropwise. The stirred reaction mixture was allowed to warm to ambient temperature. After 1 day, most of the THF was removed under reduced pressure. The residue was partitioned between CH2Cl2 (75 ml) and H2O (30 mL). The organic layer was separated and washed with saturated NaHCO3 (75 mL) and saturated NaCl (20 ml), dried (Na2SO4) and concentrated under reduced pressure. Purification by column chromatography (silica gel, CH2Cl2 to 95:5 CH2Cl2/MeOH) gave 2-(1H-imidazol-2-ylmethoxy)-1,3-dihydro-2H-isoindole-1,3-dione (240 mg, 6.5%) which was used directly in the next reaction.

reactant | (1H-imidazol-2-yl)methanol hydrochloride | 15 mmol, 2.0 g | Cl.N1C(=NC=C1)CO
reactant | N-hydroxyphthalimide | 15 mmol, 2.4 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 15 mmol, 4.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 16 mmol, 2.6 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(1H-imidazol-2-ylmethoxy)-1,3-dihydro-2H-isoindole-1,3-dione | 240 mg, 6.5% | N1C(=NC=C1)CON1C(C2=CC=CC=C2C1=O)=O | C12H9N3O3
